### PR TITLE
Rezk completions of finite limits

### PR DESCRIPTION
**Pull request by Kfwullaert**
In this PR, the Rezk completion for categories with equalizers (resp. pullbacks) is constructed, in terms of displayed universal arrows.

### CODE REVIEW

**Comment by nmvdw** [comment]
I will review it tomorrow.

File: UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Equalizers.v [hunk 1]
```diff
@@ -0,0 +1,353 @@
...
+      unfold f₂.
+      rewrite functor_on_fully_faithful_inv_hom.
+      rewrite ! assoc.
+      apply maponpaths_2.
+      refine (! id_left _ @ _).
+      apply maponpaths_2.
+      apply pathsinv0, z_iso_after_z_iso_inv.
+    Qed.
+
+    Lemma pf₀ : isEqualizer f₁ f₂ e p.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Equalizers.v:173]: The names aren't very informative, and the key statement of this section should have a more informative name.

File: UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Equalizers.v [hunk 2]
```diff
@@ -0,0 +1,353 @@
...
+    Proof.
+      use (@weak_equiv_reflects_equalizers _ _ _ Gw x y a f₁ f₂ e p).
+      use (isEqualizerUnderIso _ _ _ _ _ _ _ iEe).
+      - exact (z_iso_inv ia).
+      - exact (z_iso_inv ix).
+      - exact (z_iso_inv iy).
+      - unfold e.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Equalizers.v:180]: What about splitting out the equality proofs into lemmas and making this definition transparent?

File: UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Equalizers.v [hunk 3]
```diff
@@ -0,0 +1,353 @@
...
+        exact ix.
+      - use (z_iso_comp (_ ,, pr2 αi _)) ; simpl ; apply functor_on_z_iso.
+        exact iy.
+      - exact (! pf).
+      - exact pf'.
+      - apply pf''.
+      - apply pf₀.
+    Qed.
+
+  End A.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Equalizers.v:228]: The section should have a more informative name.

File: UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Equalizers.v [hunk 4]
```diff
@@ -0,0 +1,353 @@
...
+    {G : C1 ⟶ C2}
+    {H : C2 ⟶ C3}
+    (α : nat_z_iso (G ∙ H) F)
+    (E₁ : Equalizers C1)
+    (E₂ : Equalizers (pr1 C2))
+    (E₃ : Equalizers (pr1 C3))
+    (Gw : is_weak_equiv G)
+    (Feq : preserves_chosen_equalizers_eq F E₁ E₃).
+
+  Section A.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Equalizers.v:264]: The name of this section should be more informative.

File: UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Equalizers.v [hunk 5]
```diff
@@ -0,0 +1,353 @@
...
+
+    Context {x y : C1}
+      (f' g' : C2⟦G x, G y⟧).
+
+    Let f₁ := (fully_faithful_inv_hom (ff_from_weak_equiv _ Gw)) _ _ f'.
+    Let g₁ := (fully_faithful_inv_hom (ff_from_weak_equiv _ Gw)) _ _ g'.
+
+    Lemma pf'_0
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Equalizers.v:272]: This lemma should have a more informative name.

File: UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Pullbacks.v [hunk 6]
```diff
@@ -0,0 +1,358 @@
+Require Import UniMath.Foundations.All.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Pullbacks.v:1]: This file should be documented.

File: UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Pullbacks.v [hunk 7]
```diff
@@ -0,0 +1,358 @@
...
+    {F : C1 ⟶ C3}
+    {G : C1 ⟶ C2}
+    {H : C2 ⟶ C3}
+    (α : nat_z_iso (G ∙ H) F)
+    (Gw : is_weak_equiv G)
+    (Fpb : preserves_pullback F).
+
+  (* In this section, we show: preserves_pullback H *)
+
+  Section A.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Pullbacks.v:30]: This name should be more informative.

File: UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Pullbacks.v [hunk 8]
```diff
@@ -0,0 +1,358 @@
...
+      (i : z_iso (G px) py)
+      (i' : z_iso (G px') py').
+
+    Let PB := (make_Pullback q ispby : Pullback fy gy).
+    Let π₁x := ((fully_faithful_inv_hom (ff_from_weak_equiv _ Gw)) _ _ (i · π₁y · z_iso_inv i1)).
+    Let π₂x := ((fully_faithful_inv_hom (ff_from_weak_equiv _ Gw)) _ _ (i · π₂y · z_iso_inv i2)).
+    Let fx := ((fully_faithful_inv_hom (ff_from_weak_equiv _ Gw)) _ _ (i1 · fy · z_iso_inv i')).
+    Let gx := ((fully_faithful_inv_hom (ff_from_weak_equiv _ Gw)) _ _ (i2 · gy · z_iso_inv i')).
+
+    Lemma pf₀ : π₁x · fx = π₂x · gx.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Pullbacks.v:52]: This lemma should have a more informative name.

File: UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Pullbacks.v [hunk 9]
```diff
@@ -0,0 +1,358 @@
...
+
+    Lemma pf : isPullback pf₀.
+    Proof.
+      use (@weak_equiv_reflects_pullbacks _ _ _ Gw x1 x2 px' px fx gx π₁x π₂x pf₀).
+      use (Pullback_iso_squares q ispby).
+      - exact i1.
+      - exact i2.
+      - exact i'.
+      - exact i.
+      - unfold fx.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Pullbacks.v:82]: The equality proofs can be factored out into lemmas and then this definition can be made transparent (or `abstract` could be used).

File: UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Pullbacks.v [hunk 10]
```diff
@@ -0,0 +1,358 @@
...
+      - unfold π₂x.
+        rewrite functor_on_fully_faithful_inv_hom.
+        rewrite ! assoc'.
+        apply maponpaths.
+        refine (_ @ id_right _).
+        apply maponpaths.
+        apply (pr2 i2).
+    Qed.
+
+    Lemma pf_0
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Pullbacks.v:112]: This name should be more informative (same for the following lemmas).

File: UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Pullbacks.v [hunk 11]
```diff
@@ -0,0 +1,358 @@
...
+      use (Pullback_iso_squares _ (Fpb _ _ _ _ _ _ _ _ pf₀ (Pullbacks.p_func pf₀) pf)).
+      - exact (z_iso_comp (functor_on_z_iso H (z_iso_inv i1)) (_ ,, pr2 α _)).
+      - exact (z_iso_comp (functor_on_z_iso H (z_iso_inv i2)) (_ ,, pr2 α _)).
+      - exact (z_iso_comp (functor_on_z_iso H (z_iso_inv i')) (_ ,, pr2 α _)).
+      - exact (z_iso_comp (functor_on_z_iso H (z_iso_inv i)) (_ ,, pr2 α _)).
+      - exact pf_0.
+      - exact pf_1.
+      - exact pf_2.
+      - exact pf_3.
+    Qed.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Pullbacks.v:219]:
```suggestion
    Defined.
```

File: UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Pullbacks.v [hunk 12]
```diff
@@ -0,0 +1,358 @@
...
+    {G : C1 ⟶ C2}
+    {H : C2 ⟶ C3}
+    (α : nat_z_iso (G ∙ H) F)
+    (P₁ : Pullbacks C1)
+    (P₂ : Pullbacks (pr1 C2))
+    (P₃ : Pullbacks (pr1 C3))
+    (Gw : is_weak_equiv G)
+    (Fpb : preserves_chosen_pullbacks_eq F P₁ P₃).
+
+  Section A.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Pullbacks.v:261]: This section should have a more informative name.

File: UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Pullbacks.v [hunk 13]
```diff
@@ -0,0 +1,358 @@
...
+
+    Context {x y z : C1}
+      (f' : C2⟦G x, G z⟧)
+      (g' : C2⟦G y, G z⟧).
+
+    Lemma pf'_0
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Pullbacks.v:267]: Same comments as before. Give the lemmas more informative names.

File: UniMath/CategoryTheory/WeakEquivalences/Preservation/Binproducts.v [hunk 14]
```diff
@@ -0,0 +1,161 @@
+Require Import UniMath.Foundations.All.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Preservation/Binproducts.v:1]: This file should be documented.

File: UniMath/CategoryTheory/WeakEquivalences/Preservation/Equalizers.v [hunk 15]
```diff
@@ -0,0 +1,142 @@
+Require Import UniMath.Foundations.All.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Preservation/Equalizers.v:1]: This file should be documented.

File: UniMath/CategoryTheory/WeakEquivalences/Preservation/Equalizers.v [hunk 16]
```diff
@@ -0,0 +1,142 @@
...
+    (* {Fp : # F h · # F f₁ = # F h · # F f₂} *)
+    (iE : isEqualizer f₁ f₂ h p)
+    {e' : D}
+    (h' : D ⟦e', F x⟧)
+    (p' : h' · # F f₁ = h' · # F f₂)
+    {e'' : C}
+    (i : z_iso (F e'') e').
+
+  Let E := make_Equalizer _ _ _ _ iE.
+  (* Let ϕ : C⟦e'', x⟧ := fully_faithful_inv_hom (ff_from_weak_equiv _ Fw) _ _ (i · h'). *)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Preservation/Equalizers.v:33]: This line can be removed.

File: UniMath/CategoryTheory/WeakEquivalences/Preservation/Equalizers.v [hunk 17]
```diff
@@ -0,0 +1,142 @@
...
+Section WeakEquivalencePreservationsEqualizers₀.
+
+  Context {C D : category}
+    {F : C ⟶ D}
+    (Fw : is_weak_equiv F)
+    {x y e : C}
+    {f₁ f₂ : C ⟦ x, y ⟧}
+    {h : C ⟦ e, x ⟧}
+    {p : h · f₁ = h · f₂}
+    (* {Fp : # F h · # F f₁ = # F h · # F f₂} *)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Preservation/Equalizers.v:24]: This line can be removed.

File: UniMath/CategoryTheory/WeakEquivalences/Preservation/Pullbacks.v [hunk 18]
```diff
@@ -0,0 +1,187 @@
+Require Import UniMath.Foundations.All.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Preservation/Pullbacks.v:1]: This file should be documented.

File: UniMath/CategoryTheory/WeakEquivalences/Reflection/BinProducts.v [hunk 19]
```diff
@@ -0,0 +1,97 @@
+Require Import UniMath.Foundations.All.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Reflection/BinProducts.v:1]: This file should be documented.

File: UniMath/CategoryTheory/WeakEquivalences/Reflection/BinProducts.v [hunk 20]
```diff
@@ -0,0 +1,97 @@
...
+  Context
+    {C D : category} {F : C ⟶ D} (Fw : fully_faithful F)
+      (c1 c2 p : C) (π₁ : C⟦p, c1⟧) (π₂ : C⟦p, c2⟧)
+      (Hp : isBinProduct _ (F c1) (F c2) (F p) (#F π₁) (#F π₂)).
+
+  Context (x : C)
+    (f1 : C⟦x, c1⟧)
+    (f2 : C⟦x, c2⟧).
+
+  Definition fg : C ⟦x, p⟧
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Reflection/BinProducts.v:26]: Why not make this a `Let`?

File: UniMath/CategoryTheory/WeakEquivalences/Reflection/BinProducts.v [hunk 21]
```diff
@@ -0,0 +1,97 @@
...
+    := fully_faithful_inv_hom Fw _ _ (pr11 (Hp _ (#F f1) (#F f2))).
+
+  Lemma fg_pr1 : fg · π₁ = f1.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Reflection/BinProducts.v:29]: This lemma should have a more informative name (same for the other ones in this section).

File: UniMath/CategoryTheory/WeakEquivalences/Reflection/Equalizers.v [hunk 22]
```diff
@@ -0,0 +1,95 @@
+Require Import UniMath.Foundations.All.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Reflection/Equalizers.v:1]: This file should be documented.

File: UniMath/CategoryTheory/WeakEquivalences/Reflection/Equalizers.v [hunk 23]
```diff
@@ -0,0 +1,95 @@
...
+Section WeakEquivalencesReflectsEqualizers₀.
+
+  Context
+    {C D : category} {F : C ⟶ D} (Fw : is_weak_equiv F)
+      {x y e : C}
+      {f₁ f₂ : C ⟦ x, y ⟧}
+      {h : C ⟦ e, x ⟧}
+      {p : h · f₁ = h · f₂}.
+
+  Lemma hghg
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Reflection/Equalizers.v:24]: This lemma should have a more informative name.

File: UniMath/CategoryTheory/WeakEquivalences/Reflection/Pullbacks.v [hunk 24]
```diff
@@ -0,0 +1,101 @@
+Require Import UniMath.Foundations.All.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Reflection/Pullbacks.v:1]: This file should be documented.

File: UniMath/CategoryTheory/WeakEquivalences/Reflection/Pullbacks.v [hunk 25]
```diff
@@ -0,0 +1,101 @@
...
+    {C D : category}
+      {F : C ⟶ D}
+      (Fw : is_weak_equiv F)
+      {x y z p : C}
+      {fₓ : C ⟦x, z⟧}
+      {fy : C ⟦y, z⟧}
+      {pₓ : C ⟦p, x⟧}
+      {py : C ⟦p, y⟧}
+      (r : pₓ · fₓ = py · fy).
+      (* (Fr : # F pₓ · # F fₓ = # F py · # F fy). *)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Reflection/Pullbacks.v:27]: This line can be removed.

File: UniMath/CategoryTheory/WeakEquivalences/Reflection/Pullbacks.v [hunk 26]
```diff
@@ -0,0 +1,101 @@
...
+  Defined.
+
+  Context (iFP : isPullback p_func).
+  Let FP := make_Pullback _ iFP.
+
+  Lemma uvp_isPullback_isaprop_from_image_weq
+    {a : ob C}
+    {q₁ : C⟦a, x⟧}
+    {q₂ : C⟦a, y⟧}
+    (* (r' : = ) *)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Reflection/Pullbacks.v:43]: This line can be removed.

File: UniMath/CategoryTheory/WeakEquivalences/Terminal.v [hunk 27]
```diff
@@ -0,0 +1,65 @@
+Require Import UniMath.Foundations.All.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Terminal.v:1]: This file should be documented.

File: UniMath/Bicategories/RezkCompletions/StructuredCats/TerminalObject.v [hunk 28]
```diff
@@ -46,20 +47,20 @@ Require Import UniMath.Bicategories.Core.Examples.BicatOfCats.
 Require Import UniMath.Bicategories.Core.Univalence.
 
 Require Import UniMath.Bicategories.DisplayedBicats.DispBicat.
-Require Import UniMath.Bicategories.DisplayedBicats.DispPseudofunctor.
+(* Require Import UniMath.Bicategories.DisplayedBicats.DispPseudofunctor.
```
Comment (nmvdw) [inline UniMath/Bicategories/RezkCompletions/StructuredCats/TerminalObject.v:50]: These imports can be removed.

File: UniMath/Bicategories/RezkCompletions/StructuredCats/TerminalObject.v [hunk 29]
```diff
@@ -46,20 +47,20 @@ Require Import UniMath.Bicategories.Core.Examples.BicatOfCats.
...
-Require Import UniMath.Bicategories.Modifications.Modification.
+Require Import UniMath.Bicategories.Modifications.Modification. *)
 
 Require Import UniMath.Bicategories.PseudoFunctors.UniversalArrow.
 Import PseudoFunctor.Notations.
 
-Require Import UniMath.Bicategories.DisplayedBicats.DispBiadjunction.
-Require Import UniMath.Bicategories.DisplayedBicats.DispInvertibles.
-Import DispBicat.Notations.
+(* Require Import UniMath.Bicategories.DisplayedBicats.DispBiadjunction.
```
Comment (nmvdw) [inline UniMath/Bicategories/RezkCompletions/StructuredCats/TerminalObject.v:61]: Same here. Instead of commenting out the imports, why not delete the lines?

File: UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure.v [hunk 30]
```diff
@@ -163,3 +170,112 @@ Proof.
...
+  - exact (λ C₁ C₂ _ _ F, preserves_equalizer F).
+  - exact (λ C _, identity_preserves_equalizer _).
+  - exact (λ _ _ _ _ _ _ _ _ HF HG, composition_preserves_equalizer HF HG).
+Defined.
+
+Definition cat_with_equalizers
+  : bicat
+  := total_bicat disp_bicat_have_binproducts.
+
+(* 9. Homotopy levels of each type of 2-cells *)
```
Comment (nmvdw) [inline UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure.v:209]:
```suggestion
(** 9. Homotopy levels of each type of 2-cells *)
```

File: UniMath/Bicategories/RezkCompletions/StructuredCats/Equalizers.v [hunk 31]
```diff
@@ -0,0 +1,106 @@
+(*
```
Comment (nmvdw) [inline UniMath/Bicategories/RezkCompletions/StructuredCats/Equalizers.v:1]:
```suggestion
(**
```

File: UniMath/Bicategories/RezkCompletions/StructuredCats/Equalizers.v [hunk 32]
```diff
@@ -0,0 +1,106 @@
...
+Require Import UniMath.CategoryTheory.Core.Isos.
+Require Import UniMath.CategoryTheory.Core.Univalence.
+Require Import UniMath.CategoryTheory.Core.Functors.
+Require Import UniMath.CategoryTheory.Core.NaturalTransformations.
+Require Import UniMath.CategoryTheory.Adjunctions.Core.
+Require Import UniMath.CategoryTheory.Equivalences.Core.
+Require Import UniMath.CategoryTheory.Equivalences.CompositesAndInverses.
+Require Import UniMath.CategoryTheory.FunctorCategory.
+
+Require Import UniMath.CategoryTheory.Adjunctions.Core.
```
Comment (nmvdw) [inline UniMath/Bicategories/RezkCompletions/StructuredCats/Equalizers.v:24]: These imports are duplicated.

File: UniMath/Bicategories/RezkCompletions/StructuredCats/Pullbacks.v [hunk 33]
```diff
@@ -0,0 +1,97 @@
...
+Require Import UniMath.CategoryTheory.Core.NaturalTransformations.
+
+Require Import UniMath.CategoryTheory.Limits.Pullbacks.
+Require Import UniMath.CategoryTheory.Limits.Preservation.
+Require Import UniMath.CategoryTheory.WeakEquivalences.Core.
+Require Import UniMath.CategoryTheory.WeakEquivalences.Preservation.Pullbacks.
+Require Import UniMath.CategoryTheory.WeakEquivalences.Reflection.Pullbacks.
+Require Import UniMath.CategoryTheory.WeakEquivalences.Creation.Pullbacks.
+Require Import UniMath.CategoryTheory.WeakEquivalences.LiftPreservation.Pullbacks.
+
```
Comment (nmvdw) [inline UniMath/Bicategories/RezkCompletions/StructuredCats/Pullbacks.v:27]: This empty line can be removed.

Comment (nmvdw) [reply UniMath/Bicategories/RezkCompletions/StructuredCats/Pullbacks.v:23]: Sure. For small comments like this, you can press the 'Resolve conversation'-button yourself to keep track of what is done and not.

File: UniMath/CategoryTheory/WeakEquivalences/Reflection/Pullbacks.v [hunk 34]
```diff
@@ -0,0 +1,132 @@
+(**
+   In this file, we show how weak equivalences reflect pullbacks.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Reflection/Pullbacks.v:2]:
```suggestion
   In this file, we show that weak equivalences reflect pullbacks.
```

File: UniMath/CategoryTheory/WeakEquivalences/Reflection/Equalizers.v [hunk 35]
```diff
@@ -0,0 +1,83 @@
+(**
+   In this file, we show how weak equivalences reflect equalizers.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Reflection/Equalizers.v:2]:
```suggestion
   In this file, we show that weak equivalences reflect equalizers.
```

File: UniMath/CategoryTheory/WeakEquivalences/Reflection/BinProducts.v [hunk 36]
```diff
@@ -0,0 +1,107 @@
+(**
+   In this file, we show how weak equivalences reflect binary products.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Reflection/BinProducts.v:2]:
```suggestion
   In this file, we show that weak equivalences reflect binary products.
```

File: UniMath/CategoryTheory/WeakEquivalences/Preservation/Pullbacks.v [hunk 37]
```diff
@@ -0,0 +1,191 @@
+(**
+   In this file, we show that an arbitrary weak equivalence F : C -> D preserves pullbacks.
+   The main work is done in weak_equiv_preserves_pullbacks, where we show that the image (under F) of a pullback in C, is also a pullback in D.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Preservation/Pullbacks.v:3]:
```suggestion
   The main work is done in [weak_equiv_preserves_pullbacks], where we show that the image (under F) of a pullback in C, is also a pullback in D.
```

File: UniMath/CategoryTheory/WeakEquivalences/Preservation/Equalizers.v [hunk 38]
```diff
@@ -0,0 +1,144 @@
+(**
+   In this file, we show that an arbitrary weak equivalence F : C -> D preserves equalizers.
+   The main work is done in weak_equiv_preserves_equalizers, where we show that the image (under F) of a equalizer in C, is also an equalizer in D.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Preservation/Equalizers.v:3]:
```suggestion
   The main work is done in [weak_equiv_preserves_equalizers], where we show that the image (under F) of a equalizer in C, is also an equalizer in D.
```

File: UniMath/CategoryTheory/WeakEquivalences/Preservation/Binproducts.v [hunk 39]
```diff
@@ -0,0 +1,165 @@
+(**
+   In this file, we show that an arbitrary weak equivalence F : C -> D preserves binary products.
+   The main work is done in weak_equiv_preserves_binproducts, where we show that the image (under F) of a binary product in C, is also a product in D.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Preservation/Binproducts.v:3]:
```suggestion
   The main work is done in [weak_equiv_preserves_binproducts], where we show that the image (under F) of a binary product in C, is also a product in D.
```

File: UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Pullbacks.v [hunk 40]
```diff
@@ -0,0 +1,395 @@
+(**
+The universal property of the Rezk completion states, 1-dimensionally, that every functor F into a univalent category factors (uniquely) through the Rezk completion.
+The unique functor out of the Rezk completion is referred to as ``the lift of F''.
+The contents in this file conclude that if F preserves pullbacks, then so does its lift.
+
+In weak_equiv_lifts_preserves_pullbacks, we show that if F preserves all pullbacks in its domain, then all equalizers in the Rezk completion (of the domain) are also preserved.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Pullbacks.v:6]:
```suggestion
In [weak_equiv_lifts_preserves_pullbacks], we show that if F preserves all pullbacks in its domain, then all equalizers in the Rezk completion (of the domain) are also preserved.
```
This line is too long and should be split into 2 lines.

File: UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Pullbacks.v [hunk 41]
```diff
@@ -0,0 +1,395 @@
...
+
+In weak_equiv_lifts_preserves_chosen_pullbacks_eq, we show that if all the involved categories have chosen pullbacks, and if F preserves the chosen pullbacks up to (propositional) equality, then so does it lift.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Pullbacks.v:8]:
```suggestion
In [weak_equiv_lifts_preserves_chosen_pullbacks_eq], we show that if all the involved categories have chosen pullbacks, and if F preserves the chosen pullbacks up to (propositional) equality, then so does it lift.
```
This line is too long and should be split into 2 lines.

File: UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Equalizers.v [hunk 42]
```diff
@@ -0,0 +1,370 @@
+(**
+The universal property of the Rezk completion states, 1-dimensionally, that every functor F into a univalent category factors (uniquely) through the Rezk completion.
+The unique functor out of the Rezk completion is referred to as ``the lift of F''.
+The contents in this file conclude that if F preserves equalizers, then so does its lift.
+
+In weak_equiv_lifts_preserves_equalizers, we show that if F preserves all equalizers in its domain, then all equalizers in the Rezk completion (of the domain) are also preserved.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Equalizers.v:6]:
```suggestion
In [weak_equiv_lifts_preserves_equalizers], we show that if F preserves all equalizers in its domain, then all equalizers in the Rezk completion (of the domain) are also preserved.
```
This line is too long and should be split into 2 lines.

File: UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Equalizers.v [hunk 43]
```diff
@@ -0,0 +1,370 @@
...
+
+In weak_equiv_lifts_preserves_chosen_equalizers_eq, we show that if all the involved categories have chosen equalizers, and if F preserves the chosen equalizers up to (propositional) equality, then so does it lift.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/Equalizers.v:8]:
```suggestion
In [weak_equiv_lifts_preserves_chosen_equalizers_eq], we show that if all the involved categories have chosen equalizers, and if F preserves the chosen equalizers up to (propositional) equality, then so does it lift.
```
This line is too long and should be split into 2 lines.

File: UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/BinProducts.v [hunk 44]
```diff
@@ -0,0 +1,181 @@
+(**
+The universal property of the Rezk completion states, 1-dimensionally, that every functor F into a univalent category factors (uniquely) through the Rezk completion.
+The unique functor out of the Rezk completion is referred to as ``the lift of F''.
+The contents in this file conclude that if F preserves binary products, then so does its lift.
+
+In weak_equiv_lifts_preserves_binproducts, we show that if F preserves all binary products in its domain, then all binary products in the Rezk completion (of the domain) are also preserved.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/BinProducts.v:6]:
```suggestion
In [weak_equiv_lifts_preserves_binproducts], we show that if F preserves all binary products in its domain, then all binary products in the Rezk completion (of the domain) are also preserved.
```
This line is too long and should be split into 2 lines.

File: UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/BinProducts.v [hunk 45]
```diff
@@ -0,0 +1,181 @@
...
+
+In weak_equiv_lifts_preserves_chosen_binproducts_eq, we show that if all the involved categories have chosen binary products, and if F preserves the chosen binary products up to (propositional) equality, then so does it lift.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/BinProducts.v:8]:
```suggestion
In [weak_equiv_lifts_preserves_chosen_binproducts_eq], we show that if all the involved categories have chosen binary products, and if F preserves the chosen binary products up to (propositional) equality, then so does it lift.
```
This line is too long and should be split into 2 lines.

File: UniMath/CategoryTheory/WeakEquivalences/Creation/BinProducts.v [hunk 46]
```diff
@@ -0,0 +1,66 @@
...
+  use (factor_through_squash _ _ (BP₁ x1 x2)).
+  { apply propproperty. }
+  intro p.
+  apply hinhpr.
+  simpl in BP₁.
+
+  set (t := weak_equiv_preserves_binproducts Fw _ _ _ _ _ (pr2 p)).
+  pose (PB := make_BinProduct _ _ _ _ _ _ t).
+  exact (binproduct_of_isos PB i1 i2).
+Defined.
```
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/CategoryTheory/WeakEquivalences/Creation/BinProducts.v:48]: This point still remains.

**Review by nmvdw — APPROVED** [review]

File: UniMath/CategoryTheory/WeakEquivalences/Preservation/Pullbacks.v (hunk 37 above)
Comment (Kfwullaert) [reply UniMath/CategoryTheory/WeakEquivalences/Preservation/Pullbacks.v:3]: Is this for documentation purposes?

Comment (nmvdw) [reply UniMath/CategoryTheory/WeakEquivalences/Preservation/Pullbacks.v:3]: CoqDoc purposes: https://coq.inria.fr/doc/V8.12.2/refman/using/tools/coqdoc.html

File: UniMath/CategoryTheory/WeakEquivalences/Reflection/BinProducts.v (hunk 36 above)
Comment (Kfwullaert) [reply UniMath/CategoryTheory/WeakEquivalences/Reflection/BinProducts.v:2]: @benediktahrens What is your opinion on this?

File: UniMath/CategoryTheory/WeakEquivalences/Preservation/Equalizers.v [hunk 47]
```diff
@@ -0,0 +1,144 @@
+(**
+   In this file, we show that an arbitrary weak equivalence F : C -> D preserves equalizers.
+   The main work is done in [weak_equiv_preserves_equalizers], where we show that the image (under F) of a equalizer in C, is also an equalizer in D.
+
+   If both C and D have equalizers and D is univalent, we conclude that the image of a equalizer is the equalizer of the images.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/WeakEquivalences/Preservation/Equalizers.v:5]:
```suggestion
   If both C and D have equalizers and D is univalent, we conclude that the image of an equalizer is the equalizer of the images.
```

File: UniMath/CategoryTheory/WeakEquivalences/Reflection/BinProducts.v (hunk 36 above)
Comment (benediktahrens) [reply UniMath/CategoryTheory/WeakEquivalences/Reflection/BinProducts.v:2]: To reflect something is a proposition, so "that" is good.

File: UniMath/CategoryTheory/WeakEquivalences/Reflection/Equalizers.v (hunk 35 above)
Comment (benediktahrens) [reply UniMath/CategoryTheory/WeakEquivalences/Reflection/Equalizers.v:2]: "that" is good here.

File: UniMath/CategoryTheory/WeakEquivalences/Creation/BinProducts.v [hunk 48]
```diff
@@ -0,0 +1,70 @@
+(**
+
+In this file, we show how a weak equivalence F : C1 -> C2, with C2 univalent (i.e., the Rezk completion), creates binary products.
```
[the remark this answers is not in the document]
Comment (Kfwullaert) [reply UniMath/CategoryTheory/WeakEquivalences/Creation/BinProducts.v:3]: Why e.g.,? A weak equivalence into a univalent category necessarily satisfies the universal property of the Rezk completion

[the remark this answers is not in the document]
Comment (benediktahrens) [reply UniMath/CategoryTheory/WeakEquivalences/Creation/BinProducts.v:3]: Yes, forget my comment.

**Comment by Kfwullaert** [comment]
Is this PR ready to be merged?
